US03963706
a. 2-(3-Methylanilino)-N-(2-chloro-4-sulphamoylphenyl)-acetamide
2-Chloro-N-(2-chloro-4-sulphamoylphenyl)-acetamide (28.3 g) and m-toluidine (31.8 g) were heated 7 hours at 175°C (oil bath) and worked up as in Example 15 to yield 22.4 g product, m.p. 185°-189°C (ethanol).

reactant | 2-Chloro-N-(2-chloro-4-sulphamoylphenyl)-acetamide | 28.3 g | ClCC(=O)NC1=C(C=C(C=C1)S(N)(=O)=O)Cl | C8H8Cl2N2O3S
reactant | m-toluidine | 31.8 g | NC1=CC(=CC=C1)C | C7H9N
solvent | ethanol | C(C)O | C2H6O
product | 2-(3-Methylanilino)-N-(2-chloro-4-sulphamoylphenyl)-acetamide | 22.4 g | CC=1C=C(NCC(=O)NC2=C(C=C(C=C2)S(N)(=O)=O)Cl)C=CC1 | C15H16ClN3O3S
